US07557114B2
(b) 5-Chloro-6-(tetrahydro-furan-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester
Prepared in analogy to Example A68(a) from 5-chloro-6-(2,5-dihydro-furan-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester and platinum(IV) oxide. Off-white solid. MS (m/e): 270.3 ([{37Cl} M+H-Me2C═CH2]+, 38%), 268.3 ([{35Cl} M+H-Me2C═CH2]+, 100%).

reactant | 5-chloro-6-(2,5-dihydro-furan-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C=1COCC1 | C17H20ClNO3
catalyst | platinum(IV) oxide | [Pt](=O)=O
product | 5-Chloro-6-(tetrahydro-furan-3-yl)-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2=CC(=C(C=C2C1)Cl)C1COCC1 | C17H22ClNO3
